US04093809
a. N-(1,1-Dimethyl-3-oxobutyl)-2-diethylphosphonoacrylamide
Using the same procedure of Example 1 for the preparation of diethyl 3-oxobutylphosphonate, a solution prepared from the reaction of 3.1 grams (0.135 mole) of sodium with 63 ml of anhydrous ethanol was added under nitrogen and drying conditions with stirring at room temperature to 152 grams (1 mole) of diethyl phosphite. To this solution was then added over a one hour period maintaining the internal temperature at 30°-40° C with external cooling, 169 grams (1 mole) of diacetone acrylamide. The solution was then stirred for another hour at 24° C before 8.2 grams (0.135 mole) of acetic acid was slowly added to bring the pH to 5. The solution was dried at 70° C/16 mm and topped off by distillation for 30 minutes with a maximum pot temperature of 120° C at 0.2 mm. The pot residue (316 grams) was the desired N-(1,1-dimethyl-3-oxybutyl)-2-diethylphosphonoacrylamide in a 97% yield. Structure of the desired product with a purity of about 95% was confirmed by NMR.

reactant | diethyl 3-oxobutylphosphonate | O=C(CCP(OCC)(OCC)=O)C | C8H17O4P
reactant | sodium | 0.135 mole, 3.1 grams | [Na] | Na
reactant | diethyl phosphite | 1 mole | P(OCC)(OCC)[O-]
reactant | diacetone acrylamide | 1 mole, 169 grams | C(C=C)(=O)N.CC(=O)C.CC(=O)C
reactant | acetic acid | 0.135 mole, 8.2 grams | C(C)(=O)O | C2H4O2
solvent | ethanol | 63 ml | C(C)O | C2H6O
product | N-(1,1-Dimethyl-3-oxobutyl)-2-diethylphosphonoacrylamide | 97% yield | CC(CC(C)=O)(C)NC(C(=C)P(=O)(OCC)OCC)=O | C13H24NO5P
